US07737149B2
N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-2-(4-methylpiperazin-1-yl)pyrimidine-5-carboxamide
A solution of NaHMDS (2.100 ml, 2.10 mmol) in THF (1.0M) was added to a stirred solution of tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate (0.486 g, 1.4 mmol) and methyl 2-(4-methylpiperazin-1-yl)pyrimidine-5-carboxylate (0.397 g, 1.68 mmol) in THF (7.00 ml, cooled to −20° C.), over a period of 5 mins under nitrogen. The resulting solution was stirred at room temperature for 18 h. The mixture was heated to reflux for 90 min, then cooled to room temperature. More NaHMDS (2.100 ml, 2.10 mmol) was added and the mixture stirred for 70 mins. The mixture was allowed to stand for 96 h and then partitioned between ethyl acetate and 2.0M aqueous hydrochloric acid. The aqueous layer was separated and basified with 50% aqueous sodium hydroxide solution and then extracted with ethyl acetate (75 mL). The organic layer was washed with saturated brine (50 mL) and then dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by preparative LCMS using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (4.00 mg, 0.633%) as a white solid; 1H NMR (500.13 MHz, DMSO-d6, CD3CO2D) δ 2.34 (3H, s), 2.53 (4H, t), 2.90 (4H, t), 3.74 (6H, s), 3.89 (4H, t), 6.33 (1H, t), 6.35 (1H, s), 6.42 (2H, d), 8.89 (2H, s)

reactant | NaHMDS | 2.10 mmol, 2.100 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]-1H-pyrazole-1-carboxylate | 1.4 mmol, 0.486 g | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | methyl 2-(4-methylpiperazin-1-yl)pyrimidine-5-carboxylate | 1.68 mmol, 0.397 g | CN1CCN(CC1)C1=NC=C(C=N1)C(=O)OC | C11H16N4O2
reactant | NaHMDS | 2.10 mmol, 2.100 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | THF | 1.0M | C1CCOC1 | C4H8O
solvent | THF | 7.00 ml | C1CCOC1 | C4H8O
product | N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-2-(4-methylpiperazin-1-yl)pyrimidine-5-carboxamide | 4.00 mg, 0.633% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C=1C=NC(=NC1)N1CCN(CC1)C | C23H29N7O3
